US07279487B2
In a manner similar to that described for Example 2, N-{2-[(2-cyanopyridin-3-yl)amino]ethyl}-N-methylmethanesulfonamide was treated with MeOH, HCl and water to give methyl 3-({2-[methyl(methylsulfonyl)amino]ethyl}amino)pyridine-2-carboxylate after aqueous workup. The crude product was then treated with NaH and methyl 3-chloro-3-oxopropionate as described in Example 2 and after aqueous workup the crude methyl 4-hydroxy-1-{2-[methyl(methylsulfonyl)amino]ethyl}-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate was obtained as a pink foam. A portion of the material was crystallized from EtOH to give the product as light brown crystals.

reactant | N-{2-[(2-cyanopyridin-3-yl)amino]ethyl}-N-methylmethanesulfonamide | C(#N)C1=NC=CC=C1NCCN(S(=O)(=O)C)C | C10H14N4O2S
reactant | MeOH | CO | CH4O
reactant | HCl | Cl | ClH
reactant | water | O | H2O
product | methyl 3-({2-[methyl(methylsulfonyl)amino]ethyl}amino)pyridine-2-carboxylate | CN(CCNC=1C(=NC=CC1)C(=O)OC)S(=O)(=O)C | C11H17N3O4S
